US08278331B2
3-Chloro-4-(2-chloropyridin-4-yloxy)benzenamine (0.89 g, 3.49 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazole (0.871 g, 4.19 mmol) and K2CO3 (1.302 g, 9.42 mmol) were combined in DME (6 ml)/H2O (7.5 ml) and the headspace was flushed with Ar for 10 min. Pd(Ph3P)4 (0.202 g, 0.174 mmol) was then added and the biphasic reaction was stirred with heating at 90° C. overnight. The reaction was cooled to RT and filtered to remove insoluble material. The filtrate was diluted with THF and washed with brine (3×). The combined aqueous phases were extracted with THF (2×). The combined organics were washed with brine (1×), dried (MgSO4), concentrated in vacuo and purified by silica gel chromatography (MeOH/CHCl3) to afford 3-chloro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzenamine (1.10 g, 83% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.30-8.29 (m, 1H), 8.22 (s, 1H), 7.92 (s, 1H), 7.12 (m, 1H), 7.00-6.98 (m, 1H), 6.72 (br s, 1H), 6.58-6.54 (m, 1H), 6.47-6.44 (m, 1H), 5.44 (s, 2H), 3.84 (s, 3H); MS (ESI) m/z: 301.1 (M+H+): 303.0 (M+2+H+).

reactant | 3-Chloro-4-(2-chloropyridin-4-yloxy)benzenamine | 3.49 mmol, 0.89 g | ClC=1C=C(C=CC1OC1=CC(=NC=C1)Cl)N | C11H8Cl2N2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazole | 4.19 mmol, 0.871 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 9.42 mmol, 1.302 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 7.5 ml | O | H2O
solvent | DME | 6 ml | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 0.174 mmol, 0.202 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-chloro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzenamine | 1.10 g, 83% yield | ClC=1C=C(C=CC1OC1=CC(=NC=C1)C=1C=NN(C1)C)N | C15H13ClN4O
